US08048909B2
1-{1-[(3-Chlorophenyl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}-N-methylmethanamine hydrochloride
tert-Butyl {{1-[(3-chlorophenyl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}methyl}methylcarbamate (726 mg) was dissolved in dichloromethane (3 ml), trifluoroacetic acid (2 ml) was added at 0° C., and the mixture was stirred at room temperature for 15 min. The reaction solution was basified by the dropwise addition to 6% aqueous sodium hydrogencarbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was subjected to basic silica gel column chromatography, and eluted with ethyl acetate-methanol (19:1). The obtained pale-yellow oil was dissolved in ethyl acetate, 4 mol/L hydrogen chloride-ethyl acetate solution was added, activated carbon was added and the mixture was filtered through celite. The celite was washed sufficiently with methanol and the filtrate was concentrated under reduced pressure. The residue was crystallized from ethyl acetate and hexane, and recrystallized from ethyl acetate-ethanol to give the title compound as colorless crystals (yield 324 mg, 52%).

reactant | tert-Butyl {{1-[(3-chlorophenyl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}methyl}methylcarbamate | 726 mg | ClC=1C=C(C=CC1)S(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)CN(C(OC(C)(C)C)=O)C | C23H25ClN2O4S
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 1-{1-[(3-Chlorophenyl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}-N-methylmethanamine hydrochloride | yield 324 mg, 52% | Cl.ClC=1C=C(C=CC1)S(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)CNC | InChI=1S/C18H17ClN2O2S.ClH/c1-20-12-14-10-18(15-6-3-2-4-7-15)21(13-14)24(22,23)17-9-5-8-16(19)11-17;/h2-11,13,20H,12H2,1H3;1H
